US07807686B2
To a solution of 3-bromomethylphenyl boronic acid pinacol ester (Combi Block Inc., 297 mg, 1.0 mmol) in acetonitrile (5 mL) was added dimethylamine (2M solution in methanol, 2.0 mmol) followed by the addition of K2CO3 (691 mg, 5.0 mmol). The reaction mixture was stirred at room temperature for 16 h. Acetonitrile was removed under vacuum and the residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated NaHCO3, dried (MgSO4), filtered and the filtrate concentrated in vacuo to give dimethyl-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)benzyl]amine (INTERMEDIATE XI.1) as a viscous oil (200 mg, 0.77 mmol, 77%).

reactant | 3-bromomethylphenyl boronic acid pinacol ester | 1.0 mmol, 297 mg | BrCC=1C=C(C=CC1)B1OC(C)(C)C(C)(C)O1 | C13H18BBrO2
reactant | dimethylamine | 2.0 mmol, 2M | CNC | C2H7N
reactant | K2CO3 | 5.0 mmol, 691 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | dimethyl-[3-(4,4,5,5-tetramethyl[1,3,2]dioxaborolan-2-yl)benzyl]amine | 0.77 mmol, 200 mg, 77% | CN(CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)C | C15H24BNO2
